US06344483B1
Ex-8i) A sample of (±)-2-Acetylamino-6-(1-imino-2-fluoroethylamino)-hex-4-ynoic acid hydrochloride (3 g) is treated with concentrated HCl and then pyridine to afford (±)-2-Amino-6-(1-imino-2-fluoroethylamino)-hex-4-ynoic acid dihydrochloride.

reactant | (±)-2-Acetylamino-6-(1-imino-2-fluoroethylamino)-hex-4-ynoic acid hydrochloride | 3 g | Cl.C(C)(=O)NC(C(=O)O)CC#CCNC(CF)=N
reactant | HCl | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | (±)-2-Amino-6-(1-imino-2-fluoroethylamino)-hex-4-ynoic acid dihydrochloride | Cl.Cl.NC(C(=O)O)CC#CCNC(CF)=N | InChI=1S/C8H12FN3O2.2ClH/c9-5-7(11)12-4-2-1-3-6(10)8(13)14;;/h6H,3-5,10H2,(H2,11,12)(H,13,14);2*1H
